US04006145
49.9 g of 2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-ol, 250 ml of benzene and 18 g of finely powdered calcium chloride are saturated with hydrochloric acid gas at 15° C and then stirred for a further 3 hours at room temperature. The precipitate is filtered off and washed with benzene. The filtrate is concentrated under reduced pressure. There is obtained 2-bromo-10-chloro- 10,11-dihydro-dibenzo[b,f]thiepin of melting point 122.5°-124° C.

reactant | 2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-ol | 49.9 g | BrC1=CC2=C(SC3=C(C(C2)O)C=CC=C3)C=C1 | C14H11BrOS
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-10-chloro- 10,11-dihydro-dibenzo[b,f]thiepin | BrC1=CC2=C(SC3=C(C(C2)Cl)C=CC=C3)C=C1 | C14H10BrClS
